2158-03-12 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and
   trach-dependent COPD, with chronic pseudomonas colonization and
   recurrent pulmonary infections, who presents with fevers, altered
   mental status, hypoxia, and a GIB.
   24 Hour Events:
   - got 3 units of blood (Hct fell after first unit), after which Hct and
   VS stabilized.
   Allergies:
   No Known Drug Allergies
   Medications:
   1. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H
   2. Gentamicin 120 mg IV q8
   3. Vancomycin 1000 mg IV Q 12H
   4. Piperacillin-Tazobactam Na 4.5 g IV Q8H
   5. Norepinephrine 0.03-0.25 mcg/kg/min IV DRIP
   6. Pantoprazole 80 mg IV BOLUS and infusion
   7. Albuterol Inhaler [**2-8**] PUFF IH Q4H:PRN
   8. Ipratropium Bromide MDI 4 PUFF IH QID
   9. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 7**]
   10. Calcium Carbonate 500 mg PO TID
   11. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   12. Citalopram Hydrobromide 10 mg PO DAILY
   13. Simvastatin 80 mg PO DAILY
   14. Insulin SC Sliding Scale
   15. Vitamin D 800 UNIT PO DAILY
   Flowsheet Data as of  [**2158-3-12**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 100 (85 - 108) bpm
   BP: 113/95(100) {87/36(49) - 142/95(171)} mmHg
   RR: 21 (17 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (10 - 287)mmHg
   Total In:
                                                                  2,849 mL
                                                                    446 mL
   PO:
   TF:
   IVF:
                                                                    942 mL
                                                                    446 mL
   Blood products:
                                                                    907 mL
   Total out:
                                                                    240 mL
                                                                    390 mL
   Urine:
                                                                    240 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,609 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Vent Dependant
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.26/69/86/30/1
   Ve: 10.1 L/min
   PaO2 / FiO2: 172
   Physical Examination
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no.  Following simple commands.
   HEENT: Normocephalic, atraumatic.  +conjunctival pallor, no scleral
   icterus. PERRLA/EOMI. Dry mucous membranes. OP clear.  Neck Supple, No
   LAD, No thyromegaly.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds, audible expiratory wheezes.
   ABDOMEN: Hypoactive bowel sounds.  +Tenderness in the epigastrium to
   deep palpation, no rebound tenderness or guarding.  No palpable
   hepatosplenomegaly.
   EXTREMITIES: Extremities are warm and well-perfused.  +Bilateral
   pitting pedal edema.  Cachectic with ecchymoses at left shoulders and
   bilateral LE.
   Labs / Radiology
   335 K/uL
   6.7 g/dL
   119 mg/dL
   0.5 mg/dL
   30 mEq/L
   5.1 mEq/L
   21 mg/dL
   98 mEq/L
   134 mEq/L
   31.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2158-3-11**]  01:31 PM
                             [**2158-3-11**]  04:31 PM
                             [**2158-3-11**]  08:45 PM
                             [**2158-3-11**]  11:10 PM
                             [**2158-3-12**]  04:31 AM
   WBC
   11.6
   Hct
   20.6
   33.8
   31.6
   Plt
   335
   Cr
   0.5
   0.5
   TropT
   <0.01
   TCO2
   32
   Glucose
   159
   119
   Other labs: CK / CKMB / Troponin-T:31/3/<0.01, ALT / AST:15/19, Alk
   Phos / T Bili:87/0.1, Differential-Neuts:92.3 %, Lymph:3.7 %, Mono:3.7
   %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:6.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB) -No history of
   GIB in the past.  HCT is below baseline of 30, currently 20 from 22.6
   on admission despite blood transfusion.  Has had recent admissions for
   sepsis, which would put her at risk for stress ulcers.  Is on full
   strength aspirin and prednisone, which increases her risk for peptic
   ulcer disease.  Exam is significant for epigastric tenderness
   -Type and crossmatch active, access (PIV and RIJ), transfuse for
   falling Hct or inappropriate bump
   - Hct has been stable since last transfusion. Will check another q6,
   then if stable space out to q8.
   -IV PPI drip
   -GI following, no plan to scope until hemodynamically stable as Hct
   stable
   -Hold ASA, but continue steroids as she is dependent on them
H/O RESPIRATORY FAILURE, CHRONIC
   - continue vent via trach, check PIP, Plateu pressure as necessary
   #. Hypotension: DDX includes sepsis, GI bleed, and tension PTX. Patient
   is febrile, tachycardic with a leukocytosis, with increasing
   respiratory distress (hypoxia), increased secretions from her
   tracheostomy and a CXR concerning for multifocal PNA.  UA is also
   positive.  Her chronic pseudomonal colonization and trach dependence is
   concerning for another [**Known lastname 3396**].  However, she has had dark, guaiac positive
   stools, with a HCT drop from 22.6--20 despite getting part of her first
   unit of pRBCs.  The shift on her CXR is improving, making a tension PTX
   less likely.
   -Will treat with vanc/zosyn for [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3396**], [**First Name3 (LF) **] double cover for
   pseudomonas with gentamycin.  Patient will need vanc and gent levels.
   Past sputum cultures indicate that her pseudomonas is sensitive to
   zosyn
   -Will obtain sputum, urine, and blood cultures, and adjust abx
   accordingly.
   -Will provide fluid boluses to maintain a CVP 8-12, with q1H CVPs from
   RIJ
   -BP stable off levophed
   .
   #. Diarrhea: patient had been having diarrhea at rehab, C. diff
   negative, but had been treated empirically with flagyl.
   -will send c. diff
   -continue flagyl for now, contact rehab to define a course
   .
   #. Pneumothorax: currently appears to be improving on CXR
   -Will monitor with serial CXR's if her ventilatory/oxygenation needs
   change
   -Thoracics is following.
   .
   #. COPD
   -Continue home fluticasone, albuterol, ipratropium
   -Will continue steroids, as she is dependent on them for her severe
   COPD
   .
   #. CAD
   -Continue home simvastatin
   -Hold lisinopril given transient hypotension, and ASA given GIB
   .
   #. Anxiety/depression: continue home citalopram, hold clonazapam in the
   setting of hypotension
   .
   #. Osteoporosis: continue home calcium and vitamin D
   .
   #. Chronic Pain: continue fentanyl patch
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: IV PPI drip
   Communication:  [**First Name9 (NamePattern2) 6166**] [**First Name8 (NamePattern2) 670**] [**Last Name (NamePattern1) 6167**] [**Telephone/Fax (1) 5718**]
   Code status: Full
   Disposition:ICU

2158-03-13 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and
   trach-dependent COPD, with chronic pseudomonas colonization and
   recurrent pulmonary infections, who presents with fevers, altered
   mental status, hypoxia, and a GIB.
   24 Hour Events:
   - Old psuedomonas infxn [**2-24**] resistent to gent. Asked ID and they said
   just stop the gent. If pt worsens to add meropenem.
   - GI saw pt and decided to hold off on EGD. Cont ppi, tranfuse to > 27,
   will reevaluate when pt on floor (melana gone - green stools, but still
   guaic positive)
   - sputum G(-)rods 3+
   - yeast in urine - will replace foley in AM
   - around 10pm pt complained of pain, given vicodin x1, then around 1am,
   pt became hypotensive 70s/30s. Gave 1L bolus, improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-3-12**] 09:58 AM
   Gentamicin - [**2158-3-12**] 11:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-13**] 03:58 AM
   Metronidazole - [**2158-3-13**] 04:32 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 97 (62 - 107) bpm
   BP: 119/57(71) {81/42(56) - 150/63(82)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 10 (4 - 25)mmHg
   Total In:
                                                                  1,795 mL
                                                                  1,388 mL
   PO:
   TF:
   IVF:
                                                                  1,755 mL
                                                                  1,348 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    288 mL
   Urine:
                                                                  1,135 mL
                                                                    288 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    660 mL
                                                                  1,100 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 10.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   300 K/uL
   9.4 g/dL
   101 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   19 mg/dL
   101 mEq/L
   137 mEq/L
   27.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2158-3-11**]  01:31 PM
                             [**2158-3-11**]  04:31 PM
                             [**2158-3-11**]  08:45 PM
                             [**2158-3-11**]  11:10 PM
                             [**2158-3-12**]  04:31 AM
                             [**2158-3-12**]  11:04 AM
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
   WBC
   11.6
   13.2
   Hct
   20.6
   33.8
   31.6
   28.8
   28.4
   27.3
   Plt
   335
   300
   Cr
   0.5
   0.5
   0.6
   TropT
   <0.01
   TCO2
   32
   Glucose
   159
   119
   101
   Other labs: CK / CKMB / Troponin-T:31/3/<0.01, ALT / AST:15/19, Alk
   Phos / T Bili:87/0.1, Differential-Neuts:92.3 %, Lymph:3.7 %, Mono:3.7
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O RESPIRATORY FAILURE, CHRONIC
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB.
   #. Hypotension: DDX includes sepsis, GI bleed, and tension PTX. Patient
   is febrile, tachycardic with a leukocytosis, with increasing
   respiratory distress (hypoxia), increased secretions from her
   tracheostomy and a CXR concerning for multifocal PNA.  UA is also
   positive.  Her chronic pseudomonal colonization and trach dependence is
   concerning for another [**Known lastname 3396**].  However, she has had dark, guaiac positive
   stools, with a HCT drop from 22.6--20 despite getting part of her first
   unit of pRBCs.  The shift on her CXR is improving, making a tension PTX
   less likely.
   -Will treat with vanc/zosyn for [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3396**], [**First Name3 (LF) **] double cover for
   pseudomonas with gentamycin.  Patient will need vanc and gent levels.
   Past sputum cultures indicate that her pseudomonas is sensitive to
   zosyn
   -Will obtain sputum, urine, and blood cultures, and adjust abx
   accordingly.
   -Will provide fluid boluses to maintain a CVP 8-12, with q1H CVPs from
   RIJ
   -BP stable off levophed
   - will plan on 1wk course of antibiotics

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB) -No history of
   GIB in the past.  HCT is below baseline of 30, currently 20 from 22.6
   on admission despite blood transfusion.  Has had recent admissions for
   sepsis, which would put her at risk for stress ulcers.  Recently
   stopped ASA and prednisone.  Exam is significant for epigastric
   tenderness
   -Type and crossmatch active, access (PIV and RIJ), transfuse for
   falling Hct or inappropriate bump
   - Hct has been stable since last transfusion. Will check another q6,
   then if stable space out to q8.
   -IV PPI drip
   -GI following, no plan to scope until hemodynamically stable as Hct
   stable
   -Hold ASA

H/O RESPIRATORY FAILURE, CHRONIC
   - continue vent via trach, check PIP, Plateu pressure as necessary
   #. Diarrhea: patient had been having diarrhea at rehab, C. diff
   negative, but had been treated empirically with flagyl.
   -will send c. diff
   -continue flagyl for now, contact rehab to define a course
   #. Pneumothorax: currently continues to improve on CXR
   -Will monitor with serial CXR's if her ventilatory/oxygenation needs
   change
   -Thoracics is following.
   #. COPD
   -Continue home fluticasone, albuterol, ipratropium
   -no need for steroids
   #. CAD
   -Continue home simvastatin
   -Hold lisinopril given transient hypotension, and ASA given GIB
   #. Anxiety/depression: continue home citalopram, hold clonazapam in the
   setting of hypotension
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: continue fentanyl patch
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   [**Year (4 digits) 3396**]:
   Comments:
   Communication:  Comments: [**First Name8 (NamePattern2) 670**] [**Last Name (NamePattern1) 6167**] [**Telephone/Fax (1) 5718**] (niece)
   [**Name (NI) 36**] status: Full code
   Disposition:

2158-03-14 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB.
   24 Hour Events:
   - Pneumothorax stable in size, no pigtails
   - continues to be tachycardic
   - restarted clonazepam, still not on fentanyl and ambient
   ROS: Reports abdominal pain is chronic, uses fentanyl patch for pain
   control. Wants to sit up today and be DCed by end of week.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2158-3-12**] 11:01 AM
   Vancomycin - [**2158-3-13**] 08:30 AM
   Metronidazole - [**2158-3-13**] 11:46 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-14**] 04:30 AM
   Other medications:
   1. Albuterol Inhaler [**2-8**] PUFF IH Q4H:PRN
   2. Calcium Carbonate 500 mg PO TID
   3. Miconazole Powder 2% 1 Appl TP PRN
   4. Chlorhexidine 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   5. Pantoprazole 40 mg IV Q12H
   6. Citalopram 10 mg PO DAILY
   7. Piperacillin-Tazobactam Na 4.5 g IV Q8H
   8. Clonazepam 0.5 mg PO TID
   9. Simvastatin 80 mg PO DAILY
   10. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 7**]
   11. Vitamin D 800 UNIT PO DAILY
   12. Insulin SC
   Flowsheet Data as of  [**2158-3-14**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 114 (69 - 114) bpm
   BP: 155/57(82) {100/42(57) - 155/65(83)} mmHg
   RR: 19 (19 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  2,560 mL
                                                                    169 mL
   PO:
   TF:
                                                                     88 mL
                                                                     69 mL
   IVF:
                                                                  2,051 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,218 mL
                                                                    720 mL
   Urine:
                                                                  1,218 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,342 mL
                                                                   -551 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 43 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 8.3 L/min
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no.  Following simple commands.
   HEENT: Normocephalic, atraumatic.  +conjunctival pallor, no scleral
   icterus. PERRLA/EOMI. Dry mucous membranes. OP clear.  Neck Supple, No
   LAD, No thyromegaly.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds, audible expiratory wheezes.
   ABDOMEN: Hypoactive bowel sounds.  NT/ND
   EXTREMITIES: Extremities are warm and well-perfused.  +Bilateral
   pitting pedal edema.  Cachectic with ecchymoses at left shoulders and
   bilateral LE.
   Labs / Radiology
   355 K/uL
   10.7 g/dL
   74 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   14 mg/dL
   102 mEq/L
   140 mEq/L
   30.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2158-3-11**]  01:31 PM
                             [**2158-3-11**]  04:31 PM
                             [**2158-3-11**]  08:45 PM
                             [**2158-3-11**]  11:10 PM
                             [**2158-3-12**]  04:31 AM
                             [**2158-3-12**]  11:04 AM
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
   WBC
   11.6
   13.2
   14.5
   Hct
   20.6
   33.8
   31.6
   28.8
   28.4
   27.3
   31.5
   30.3
   Plt
   335
   300
   355
   Cr
   0.5
   0.5
   0.6
   0.5
   TropT
   <0.01
   TCO2
   32
   Glucose
   159
   119
   101
   74
   Other labs: CK / CKMB / Troponin-T:31/3/<0.01, ALT / AST:15/19, Alk
   Phos / T Bili:87/0.1, Differential-Neuts:92.3 %, Lymph:3.7 %, Mono:3.7
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB.
 HYPOTENSION (NOT SHOCK): DDX included sepsis, GI bleed, and tension
   PTX. See plans below.
   - BP resolved, will restart home lisinopril.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -          CXR with multifocal pneumonia and sputum cultures growing
   pseudomonas. Has been afebrile, but WBCs trending up
   -          Treating with zosyn (resistant to gent). Add meropenem if
   clinically worsens for double coverage. Plan for 1 week course.

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB) -No history of
   GIB in the past.  Recently stopped ASA and prednisone.  Exam is
   significant for epigastric tenderness. Hct stable x 48hrs.
   -Type and crossmatch active, access (PIV and RIJ), transfuse for
   falling Hct or inappropriate bump
   - Hct has been stable since last transfusion. Will spread checks to
   q24hrs.
   -IV PPI drip
   -GI following, f/u recs
 will need scope soon.
   -Hold ASA
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   stable on CXR, not affecting ventilator numbers
   -Will monitor with serial CXR's if her ventilatory/oxygenation needs
   change
   -Thoracics is following, no plan for pigtail unless clinically worsens.

RESPIRATORY FAILURE, CHRONIC
   -          continue vent via trach, check PIP, Plateau pressure as
   necessary
   -          will have thoracics change trach today as difficult to
   suction.
   #. Tachycardia: Possibly due to pain, benzo withdrawal. Restarting
   fentanyl and clonazepam. Does not seem to be hypovolemic.
   #. COPD
   -Continue home fluticasone, albuterol, ipratropium
   -no need for steroids
   #. CAD
   -Continue home simvastatin, restart lisinopril
   - hold ASA given GIB
   #. Anxiety/depression: continue home citalopram and clonazapam
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: restart fentanyl patch for chronic abdominal pain.
   Known to have partially obstructed intrarenal aorta but not surgical
   candidate previously. Can tbw vascular after pt scoped, if ischemic
   colitis still possibility for cause of pain.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-13**] 03:11 PM 10 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Communication:  Neice
   [**Name (NI) 36**] status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam.  Agree
   substantially with assessment and plan. Difficulty suctioning through
   trache.  Breathing stable but low grade fever persists and WBC is up
   slightly.  Having occasional sm guiac pos stools. Urine output good.
   Chest
 prolonged exhalation.  No wheezes few mid insp crackles.
   Plan: will add [**Last Name (un) **] if WBC rises further or if fever is not improving
                   Trache changed
 should facilitate suctioning
   EGD this week
   Time spent 40 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2158-3-14**] 18:46 ------

2158-03-15 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and
   trach-dependent COPD, with chronic pseudomonas colonization and
   recurrent pulmonary infections, who presents with fevers, altered
   mental status, hypoxia, and a GIB.
   24 Hour Events:
 BRONCHOSCOPY - At [**2158-3-14**] 01:45 PM
   - trach was replaced by throracics
   - GI: scope pt on Thursday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2158-3-12**] 11:01 AM
   Vancomycin - [**2158-3-13**] 08:30 AM
   Metronidazole - [**2158-3-13**] 11:46 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-14**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-3-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-15**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 113 (97 - 118) bpm
   BP: 117/50(65) {113/43(63) - 154/68(89)} mmHg
   RR: 20 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,634 mL
                                                                     76 mL
   PO:
             TF:
                                                                    412 mL
   IVF:
                                                                    871 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    735 mL
   Urine:
                                                                  2,035 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -401 mL
                                                                   -659 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 29 cmH2O
   Plateau: 0 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 9.7 L/min
   Physical Examination
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no.  Following simple commands.
   HEENT: Normocephalic, atraumatic.  +conjunctival pallor, no scleral
   icterus. PERRLA/EOMI. Dry mucous membranes. OP clear.  Neck Supple, No
   LAD, No thyromegaly.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds, audible expiratory wheezes.
   ABDOMEN: Hypoactive bowel sounds.  NT/ND
   EXTREMITIES: Extremities are warm and well-perfused.  +Bilateral
   pitting pedal edema.  Cachectic with ecchymoses at left shoulders and
   bilateral LE.
   Labs / Radiology
   395 K/uL
   11.7 g/dL
   77 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.2 mEq/L
   10 mg/dL
   99 mEq/L
   140 mEq/L
   34.4 %
   19.5 K/uL
        [image002.jpg]
                             [**2158-3-11**]  04:31 PM
                             [**2158-3-11**]  08:45 PM
                             [**2158-3-11**]  11:10 PM
                             [**2158-3-12**]  04:31 AM
                             [**2158-3-12**]  11:04 AM
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
   WBC
   11.6
   13.2
   14.5
   19.5
   Hct
   20.6
   33.8
   31.6
   28.8
   28.4
   27.3
   31.5
   30.3
   34.4
   Plt
   335
   300
   355
   395
   Cr
   0.5
   0.5
   0.6
   0.5
   0.5
   TropT
   <0.01
   Glucose
   159
   119
   101
   74
   77
   Other labs: PT / PTT / INR:15.2/28.4/1.3, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:92.3 %, Lymph:3.7 %, Mono:3.7 %, Eos:0.1 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)- CXR with multifocal
   pneumonia and sputum cultures growing pseudomonas. Has been afebrile,
   but WBCs trending up now 19.5
   - Will change zosyn to meropenem as likely not treating pseudomonas
   - will recheck  c.diff, ua/ucx for other sources of infxn, but likely
   pseudomonas

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB) -No history of
   GIB in the past.  Recently stopped ASA and prednisone.  Exam is
   significant for epigastric tenderness. Hct stable x 48hrs.
   -Type and crossmatch active, access (PIV and RIJ), transfuse for
   falling Hct or inappropriate bump
   - Hct has been stable since last transfusion. Will spread checks to
   q24hrs.
   -IV PPI drip
   -GI following, f/u recs
 will need scope soon.
   -Hold ASA
   #. Tachycardia: Possibly due to pain, benzo withdrawal. Restarting
   fentanyl and clonazepam. Does not seem to be hypovolemic. Also possibly
   from fevers.
   - will try 500ml bolus
 HYPOTENSION (NOT SHOCK): DDX included sepsis, GI bleed, and tension
   PTX. See plans below.
   - BP resolved, on home lisinopril.
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   stable on CXR, not affecting ventilator numbers
   -Will monitor with serial CXR's if her ventilatory/oxygenation needs
   change
   -Thoracics is following, no plan for pigtail unless clinically worsens.
RESPIRATORY FAILURE, CHRONIC-  thoracics changed trach today as
   difficult to suction. Now breathing well.
   - continue vent via trach, check PIP, Plateau pressure as necessary
   .
   #. COPD
   -Continue home fluticasone, albuterol, ipratropium
   -no need for steroids
   #. CAD
   -Continue home simvastatin, restart lisinopril
   - hold ASA given GIB
   #. Anxiety/depression: continue home citalopram and clonazapam
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: restart fentanyl patch for chronic abdominal pain.
   Known to have partially obstructed intrarenal aorta but not surgical
   candidate previously. Can tbw vascular after pt scoped, if ischemic
   colitis still possibility for cause of pain.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   substantially with A&P.
   HR up overnight and WBC now 19k. Still producing thick secretions.
   Trache changed to [**Last Name (un) 1841**] for easier suctioning.  Some loose stool
   overnight
   Frail,  HR 120
   Abd
 soft
   Prolonged exhalation, mid insp crackles
   Not clear if she has just not responded to single coverage of
   Pseudomonas or if she has a new infection. We will
   Culture
   Add [**Last Name (un) **]
   Stool for C diff
   EGD
   Fluid bolus to assess HR
   No signs of withdrawal
 will hold on treating HR if possible
   Time spent 45 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2158-3-15**] 18:10 ------

2158-03-16 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB.
   24 Hour Events:
   - meropenem added w/ rising WBC, ID d/c'd zosyn
   - checking for other sourses of infxn c.diff/UA
   - GI will do EGD tomorrow AM ([**3-16**])
   - UOP good overnight 40-50s/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2158-3-13**] 08:30 AM
   Metronidazole - [**2158-3-13**] 11:46 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-15**] 11:36 AM
   Meropenem - [**2158-3-15**] 08:00 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-3-15**] 09:36 AM
   Other medications: see below
   Flowsheet Data as of  [**2158-3-16**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 108 (103 - 124) bpm
   BP: 95/47(58) {95/44(58) - 163/102(111)} mmHg
   RR: 20 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,910 mL
                                                                    175 mL
   PO:
             TF:
                                                                    200 mL
   IVF:
                                                                    950 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    245 mL
   Urine:
                                                                  1,695 mL
                                                                    245 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    210 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 240 (240 - 240) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 97%
   ABG: ///31/
   Ve: 10.2 L/min
   Physical Examination
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no.  Following simple commands.
   HEENT: Normocephalic, atraumatic.  +conjunctival pallor, no scleral
   icterus. PERRLA/EOMI. Dry mucous membranes. OP clear.  Neck Supple, No
   LAD, No thyromegaly.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds, audible expiratory wheezes.
   ABDOMEN: Hypoactive bowel sounds.  NT/ND
   EXTREMITIES: Extremities are warm and well-perfused.  +Bilateral
   pitting pedal edema.  Cachectic with ecchymoses at left shoulders and
   bilateral LE.
   Labs / Radiology
   383 K/uL
   10.4 g/dL
   90 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   9 mg/dL
   98 mEq/L
   140 mEq/L
   31.3 %
   27.2 K/uL
        [image002.jpg]
                             [**2158-3-11**]  08:45 PM
                             [**2158-3-11**]  11:10 PM
                             [**2158-3-12**]  04:31 AM
                             [**2158-3-12**]  11:04 AM
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
   WBC
   13.2
   14.5
   19.5
   27.2
   Hct
   33.8
   31.6
   28.8
   28.4
   27.3
   31.5
   30.3
   34.4
   31.3
   Plt
   300
   355
   395
   383
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   TropT
   <0.01
   Glucose
   119
   101
   74
   77
   90
   Other labs: PT / PTT / INR:16.7/28.1/1.5, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:92.3 %, Lymph:3.7 %, Mono:3.7 %, Eos:0.1 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)- CXR with multifocal
   pneumonia and sputum cultures growing pseudomonas. Has been afebrile,
   but WBCs trending up now 19.5
   - Will change zosyn to meropenem as likely not treating pseudomonas
   - will recheck  c.diff, ua/ucx for other sources of infxn, but likely
   pseudomonas

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB) -No history of
   GIB in the past.  Recently stopped ASA and prednisone.  Exam is
   significant for epigastric tenderness. Hct stable x 48hrs.
   -Type and crossmatch active, access (PIV and RIJ), transfuse for
   falling Hct or inappropriate bump
   - Hct has been stable since last transfusion. Will spread checks to
   q24hrs.
   -IV PPI drip
   -GI following, f/u recs
 will need scope soon.
   -Hold ASA
   #. Tachycardia: Possibly due to pain, benzo withdrawal. Restarting
   fentanyl and clonazepam. Does not seem to be hypovolemic. Also possibly
   from fevers.
   - will try 500ml bolus
 HYPOTENSION (NOT SHOCK): DDX included sepsis, GI bleed, and tension
   PTX. See plans below.
   - BP resolved, on home lisinopril.
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   stable on CXR, not affecting ventilator numbers
   -Will monitor with serial CXR's if her ventilatory/oxygenation needs
   change
   -Thoracics is following, no plan for pigtail unless clinically worsens.
RESPIRATORY FAILURE, CHRONIC-  thoracics changed trach today as
   difficult to suction. Now breathing well.
   - continue vent via trach, check PIP, Plateau pressure as necessary
   #. COPD
   -Continue home fluticasone, albuterol, ipratropium
   -no need for steroids
   #. CAD
   -Continue home simvastatin, restart lisinopril
   - hold ASA given GIB
   #. Anxiety/depression: continue home citalopram and clonazapam
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: restart fentanyl patch for chronic abdominal pain.
   Known to have partially obstructed intrarenal aorta but not surgical
   candidate previously. Can tbw vascular after pt scoped, if ischemic
   colitis still possibility for cause of pain.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
                   1. Acetaminophen 325-650 mg PO Q6H:PRN
   9. Lisinopril 5 mg PO DAILY
   2. Albuterol Inhaler [**2-8**] PUFF IH Q4H:PRN
   10. Meropenem 500 mg IV Q6H
   3. Calcium Carbonate 500 mg PO TID
   11. Miconazole Powder 2% 1 Appl TP PRN
   4. Chlorhexidine Gluconate 0.12% Oral [**Hospital1 7**]
   12. Pantoprazole 40 mg IV Q12H
   5. Citalopram Hydrobromide 10 mg PO DAILY
   13. Insulin SC  SS
   6. Clonazepam 0.5 mg PO TID
   14. Simvastatin 80 mg PO DAILY
   7. Fentanyl Patch 25 mcg/hr TP Q72H
   15. Ipratropium Bromide MDI 4 PUFF IH QID
   8. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 7**]
   19. Vitamin D 800 UNIT PO DAILY

2158-03-17 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and
   trach-dependent COPD, with chronic pseudomonas colonization and
   recurrent pulmonary infections, who presents with fevers, altered
   mental status, hypoxia, and a GIB.
   24 Hour Events:
 ENDOSCOPY
   Impression:
   Erythema and granularity in the stomach body
   Otherwise normal EGD to second part of the duodenum
   Bleeding may have been due to inflammation around PEG, which has now
   stopped.
   Recommendations:
   Routine post procedure orders
   Recommend loosening the PEG/bumper to prevent ulceration/necrosis.
   Maintain PPI.
   Recommend screening colonoscopy given patient's age as an outpt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-15**] 11:36 AM
   Meropenem - [**2158-3-17**] 01:14 AM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-3-16**] 08:03 PM
   Other medications: see below
   Flowsheet Data as of  [**2158-3-17**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 109 (86 - 113) bpm
   BP: 131/61(77) {95/43(58) - 155/66(87)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,242 mL
                                                                    215 mL
   PO:
             TF:
                                                                     23 mL
                                                                    115 mL
   IVF:
                                                                    829 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    200 mL
   Urine:
                                                                  1,395 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -154 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 414 (343 - 459) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.2 L/min
   Physical Examination
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no, writes to communicate
   HEENT: MMM
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds
   ABDOMEN: Hypoactive bowel sounds.  NT/ND
   EXTREMITIES: Extremities are warm and well-perfused (except distally).
   +Bilateral pitting pedal edema.  Cachectic with ecchymoses at left
   shoulders and bilateral LE.
   Labs / Radiology
   403 K/uL
   9.9 g/dL
    mg/dL
    mEq/L
    mg/dL
    mEq/L
    mEq/L
   29.6 %
   26.2 K/uL
        [image002.jpg]
                             [**2158-3-11**]  08:45 PM
                             [**2158-3-11**]  11:10 PM
                             [**2158-3-12**]  04:31 AM
                             [**2158-3-12**]  11:04 AM
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
   WBC
   13.2
   14.5
   19.5
   27.2
   Hct
   33.8
   31.6
   28.8
   28.4
   27.3
   31.5
   30.3
   34.4
   31.3
   Plt
   300
   355
   395
   383
   Cr
   0.5
   0.6
   0.5
   0.5
   0.5
   TropT
   <0.01
   Glucose
   119
   101
   74
   77
   90
   Other labs: PT / PTT / INR:16.7/28.1/1.5, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:85.0 %, Band:5.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.4
   mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)- CXR with multifocal
   pneumonia and sputum cultures growing pseudomonas. Has been afebrile,
   and clinically improving but leukocytosis worsening to 27 today while
   on Meropenem (from zosyn).
   - New infiltrate on CXR, concerning for different bacteria as has been
   on Meropenem. However has also had difficulty suctioning with trach
   [**Last Name (LF) 6271**], [**First Name3 (LF) **] may have developed abscess/collection not covered by
   antibiotics.
   - will recheck sputum cultures, f/u GS to determine need to restart
   Vanco.
   - C diff several days ago neg, and having minimal stool. If no GPC on
   sputum GS, will start empiric Flagyl (had been on it at rehab).
   - urine cultures and blood cultures if spikes.

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 No further
   bleeding, Hct stable.
   - EGD without obvious source
 gastritis and periPEG erythema
   - transfuse for falling Hct, checking q24hrs.
   -IV PPI [**Hospital1 7**]
   -Hold ASA
 TACHYCARDIA, OTHER: Likely due to multiple pulmonary
   infections/fevers. Has not responded to IVF, restarting benzo and pain
   control.
 HYPOTENSION (NOT SHOCK): Resolved, on home lisinopril.
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   improving on CXRs
RESPIRATORY FAILURE, CHRONIC-  thoracics changed trach today as
   difficult to suction. Now breathing well.
   - continue to attempt to wean vent.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -Continue home fluticasone, albuterol, ipratropium
   -no need for steroids
   #. CAD
   -Continue home simvastatin, restart lisinopril
   - hold ASA given GIB
   #. Anxiety/depression: continue home citalopram and clonazapam
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: restart fentanyl patch for chronic abdominal pain.
   Known to have partially obstructed intrarenal aorta but not surgical
   candidate previously. Can tbw vascular after pt scoped, if ischemic
   colitis still possibility for cause of pain.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-16**] 09:42 PM 20 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   Communication:  Neice
   [**Name (NI) 36**] status: Full code
   Disposition:
                        Active Medications [**Known lastname **],[**Known firstname **] M
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular Order date: [**3-11**] @ 1558
   12. Lisinopril 5 mg PO DAILY  Order date: [**3-14**] @ 1159
   2. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**3-16**] @ 0630
   13. Magnesium Sulfate 2 gm IV ONCE Duration: 1 Doses Order date: [**3-16**]
   @ 1406
   3. Albuterol Inhaler [**2-8**] PUFF IH Q4H:PRN  Order date: [**3-11**] @ [**2059**]
   14. Meropenem 500 mg IV Q6H
   d1 = [**3-15**]  Order date: [**3-15**] @ 1510
   4. Calcium Carbonate 500 mg PO TID  Order date: [**3-11**] @ 1833
   15. Miconazole Powder 2% 1 Appl TP PRN  Order date: [**3-11**] @ 1846
   5. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Use only if patient is on mechanical ventilation.  Order date: [**3-12**] @
   0456
   16. Pantoprazole 40 mg IV Q12H  Order date: [**3-13**] @ 1244
   6. Citalopram Hydrobromide 10 mg PO DAILY  Order date: [**3-11**] @ 1833
   17. Potassium Chloride 40 mEq / 100 ml SW IV ONCE Duration: 1 Doses
   Order date: [**3-16**] @ 1406
   7. Clonazepam 0.5 mg PO TID
   Hold for sedation, RR<12, SBP<90  Order date: [**3-14**] @ 0045
   18. Potassium Phosphate 15 mmol / 250 ml NS IV ONCE Duration: 1 Doses
   Infuse over 6 hours  Order date: [**3-16**] @ 1406
   8. Fentanyl Patch 25 mcg/hr TP Q72H  Order date: [**3-14**] @ 1159
   19. Simvastatin 80 mg PO DAILY  Order date: [**3-11**] @ 1833
   9. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 7**]  Order date: [**3-11**] @
   1833
   20. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**3-11**] @ 1558
   10. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**3-11**] @ 2033
   21. Vitamin D 800 UNIT PO DAILY  Order date: [**3-11**] @ 1833
   11. Ipratropium Bromide MDI 4 PUFF IH QID  Order date: [**3-11**] @ [**2059**]

2158-03-18 08:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and
   trach-dependent COPD, with chronic pseudomonas colonization and
   recurrent pulmonary infections, who presents with fevers, altered
   mental status, hypoxia, and a GIB.
   24 Hour Events:
 BLOOD CULTURED - At [**2158-3-17**] 10:07 PM
   - leukocytosis continues to rise, sputum cultures just GNR while on
   meropenem, so concerning for resistent pseudomonas or other bug - added
   amikacin for double coverage (needs ID approval, they agreed but didn't
   put it in!) - (check amikacin level after 4 doses)
   - bicarb elevated, hypoxic and tachycardic concerning for pulmonary
   worsening status. ABG not concerning (7.4, ~60, ~90)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-3-15**] 11:36 AM
   Amikacin - [**2158-3-17**] 11:07 PM
   Meropenem - [**2158-3-18**] 04:41 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2158-3-17**] 08:17 PM
   Midazolam (Versed) - [**2158-3-17**] 11:06 PM
   Morphine Sulfate - [**2158-3-18**] 02:22 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-18**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-18**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 108 (99 - 126) bpm
   BP: 123/57(72) {94/37(53) - 152/71(86)} mmHg
   RR: 28 (19 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,037 mL
                                                                    706 mL
   PO:
             TF:
                                                                    698 mL
                                                                    325 mL
   IVF:
                                                                    669 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    235 mL
   Urine:
                                                                  1,360 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    677 mL
                                                                    471 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 248 (248 - 248) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/59/91/35/8
   Ve: 10 L/min
   PaO2 / FiO2: 182
   Physical Examination
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no, writes to communicate
   HEENT: MMM
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds
   ABDOMEN: Hypoactive bowel sounds.  NT/ND
   EXTREMITIES: Extremities are warm and well-perfused (except distally).
   +Bilateral pitting pedal edema.  Cachectic with ecchymoses at left
   shoulders and bilateral LE.
   Labs / Radiology
   407 K/uL
   9.7 g/dL
   109 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   9 mg/dL
   98 mEq/L
   139 mEq/L
   29.2 %
   23.6 K/uL
        [image002.jpg]
                             [**2158-3-12**]  11:04 AM
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
                             [**2158-3-17**]  06:00 AM
                             [**2158-3-17**]  11:29 PM
                             [**2158-3-18**]  03:58 AM
   WBC
   13.2
   14.5
   19.5
   27.2
   26.2
   23.6
   Hct
   28.8
   28.4
   27.3
   31.5
   30.3
   34.4
   31.3
   29.6
   29.2
   Plt
   300
   355
   395
   383
   403
   407
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   0.3
   TCO2
   38
   Glucose
   101
   74
   77
   90
   80
   109
   Other labs: PT / PTT / INR:14.0/30.1/1.2, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:85.0 %, Band:5.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.3
   mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB. Found to have multifocal pseudomonal pneumonia initially
   responsive to Zosyn. WBC plateaued pt switched to Meropenem. She then
   developed clinical worsening (increased suctioning and hypoxia) and new
   infiltrate with GNR on gram stain.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)-
   - as new infiltrate developed while on Meropenem, concerning for
   resistant pseudomonas or new bacteria. GS without
   - No GP on gram stain, thus no vanco
   - start Amikacin for double pseudomonal coverage per ID.
   - C diff several days ago neg, and having minimal stool.
   - urine cultures and blood cultures if spikes.
   - recheck CXR re CHF, PTX, PE, fever source.
 TACHYCARDIA, HYPOTENSION: Likely due to multiple pulmonary
   infections/fevers. Has not responded to IVF, restarting benzo and pain
   control.
   - can check ABG given hypoxia and metabolic alkalosis.

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 No further
   bleeding, Hct stable.
   - EGD without obvious source
 gastritis and periPEG erythema
   - transfuse for falling Hct, checking q24hrs.
   -IV PPI [**Hospital1 7**]
   -Hold ASA
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   improving on CXRs
RESPIRATORY FAILURE, CHRONIC-  thoracics changed trach with
   improvement of suctioning. Now breathing well.
   - continue to attempt to wean vent and diurese.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -Continue home fluticasone, albuterol, ipratropium
   -no need for steroids
   #. CAD
   -Continue home simvastatin, restart lisinopril
   - hold ASA given GIB
   #. Anxiety/depression: continue home citalopram and clonazapam
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: restart fentanyl patch for chronic abdominal pain.
   Known to have partially obstructed intrarenal aorta but not surgical
   candidate previously. Can tbw vascular after pt scoped, if ischemic
   colitis still possibility for cause of pain.
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-16**] 09:42 PM 20 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI switch to PO
   Communication:  Neice
   [**Name (NI) 36**] status: Full code
   Disposition:
                        Active Medications [**Known lastname **],[**Known firstname **] M
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular Order date: [**3-11**] @ 1558
   12. Lisinopril 5 mg PO DAILY  Order date: [**3-14**] @ 1159
   2. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**3-16**] @ 0630
   13. Magnesium Sulfate 2 gm IV ONCE Duration: 1 Doses Order date: [**3-16**]
   @ 1406
   3. Albuterol Inhaler [**2-8**] PUFF IH Q4H:PRN  Order date: [**3-11**] @ [**2059**]
   14. Meropenem 500 mg IV Q6H
   d1 = [**3-15**]  Order date: [**3-15**] @ 1510
   4. Calcium Carbonate 500 mg PO TID  Order date: [**3-11**] @ 1833
   15. Miconazole Powder 2% 1 Appl TP PRN  Order date: [**3-11**] @ 1846
   5. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Use only if patient is on mechanical ventilation.  Order date: [**3-12**] @
   0456
   16. Pantoprazole 40 mg IV Q12H  Order date: [**3-13**] @ 1244
   6. Citalopram Hydrobromide 10 mg PO DAILY  Order date: [**3-11**] @ 1833
   17. Potassium Chloride 40 mEq / 100 ml SW IV ONCE Duration: 1 Doses
   Order date: [**3-16**] @ 1406
   7. Clonazepam 0.5 mg PO TID
   Hold for sedation, RR<12, SBP<90  Order date: [**3-14**] @ 0045
   18. Potassium Phosphate 15 mmol / 250 ml NS IV ONCE Duration: 1 Doses
   Infuse over 6 hours  Order date: [**3-16**] @ 1406
   8. Fentanyl Patch 25 mcg/hr TP Q72H  Order date: [**3-14**] @ 1159
   19. Simvastatin 80 mg PO DAILY  Order date: [**3-11**] @ 1833
   9. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 7**]  Order date: [**3-11**] @
   1833
   20. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**3-11**] @ 1558
   10. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**3-11**] @ 2033
   21. Vitamin D 800 UNIT PO DAILY  Order date: [**3-11**] @ 1833
   11. Ipratropium Bromide MDI 4 PUFF IH QID  Order date: [**3-11**] @ [**2059**]

2158-03-18 12:21:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo female with severe COPD s/p trach, hx recurr pseudomonas
   infections, admitted [**3-11**] with pseudomonas PNA. Abx changed from
   vanc/zosyn to merepenem/amikacin due to increasing leukocytosis
   24 Hour Events:
 BLOOD CULTURED - At [**2158-3-17**] 10:07 PM
   *Anxious overnight
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2158-3-17**] 11:07 PM
   Meropenem - [**2158-3-18**] 10:15 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2158-3-17**] 08:17 PM
   Midazolam (Versed) - [**2158-3-17**] 11:06 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-18**] 04:41 AM
   Morphine Sulfate - [**2158-3-18**] 09:30 AM
   Other medications:
   celexa, vit D, Ca carbonate, fluticasone inhaler, zocor, atrovent,
   klonipin, fentanyl patch, lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-18**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 127 (99 - 130) bpm
   BP: 105/49(59) {94/40(53) - 175/72(88)} mmHg
   RR: 24 (19 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  2,037 mL
                                                                  1,070 mL
   PO:
             TF:
                                                                    698 mL
                                                                    476 mL
   IVF:
                                                                    669 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    515 mL
   Urine:
                                                                  1,360 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    677 mL
                                                                    555 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 465 (248 - 465) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/59/91/35/8
   Ve: 10.2 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: No(t) Well nourished, Thin, Frail elderly female
   Head, Ears, Nose, Throat: Trach
   Lymphatic: Cervical WNL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Coarse BS, decreased at bases, LUL rales
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: Scattered ecchymoses, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   407 K/uL
   109 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   9 mg/dL
   98 mEq/L
   139 mEq/L
   29.2 %
   23.6 K/uL
        [image002.jpg]
                             [**2158-3-12**]  11:04 AM
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
                             [**2158-3-17**]  06:00 AM
                             [**2158-3-17**]  11:29 PM
                             [**2158-3-18**]  03:58 AM
   WBC
   13.2
   14.5
   19.5
   27.2
   26.2
   23.6
   Hct
   28.8
   28.4
   27.3
   31.5
   30.3
   34.4
   31.3
   29.6
   29.2
   Plt
   300
   355
   395
   383
   403
   407
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   0.3
   TCO2
   38
   Glucose
   101
   74
   77
   90
   80
   109
   Other labs: PT / PTT / INR:14.0/30.1/1.2, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:85.0 %, Band:5.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.3
   mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Microbiology: [**3-16**] Sputum: Pseudomonas, [**Last Name (un) 270**].pending
   Fecal cultures negative
   Cdiff negative
   Assessment and Plan
 ANXIETY
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O RESPIRATORY FAILURE, CHRONIC
 TACHYCARDIA, OTHER
   70 yo female with COPD, chronic resp failure, admitted with Pseudomonas
   PNA, GI bleed (PEG irritation)-
   1. Pseudomonas PNA: remains on merepenem/amikacin- f/u sputum
   sensitivities
   2. Respiratory failure: Continues to require vent support. Has
   auto-PEEP 10 this am- will increase PEEP to 8
   3. COPD: On albuterol/atrovent
   4. Tachycardia: ?fluid status. Will check CVP
   5. CAD: no s/sx ischemia.
   Rest of plan per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-18**] 05:08 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2158-03-18 15:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and
   trach-dependent COPD, with chronic pseudomonas colonization and
   recurrent pulmonary infections, who presents with fevers, altered
   mental status, hypoxia, and a GIB.
   24 Hour Events:
 BLOOD CULTURED - At [**2158-3-17**] 10:07 PM
   - leukocytosis continues to rise, sputum cultures just GNR while on
   meropenem, so concerning for resistent pseudomonas or other bug - added
   amikacin for double coverage (needs ID approval, they agreed but didn't
   put it in!) - (check amikacin level after 4 doses)
   - bicarb elevated, hypoxic and tachycardic concerning for pulmonary
   worsening status. ABG not concerning (7.4, ~60, ~90)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2158-3-18**] 10:15 AM
   Amikacin - [**2158-3-18**] 12:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2158-3-17**] 08:17 PM
   Midazolam (Versed) - [**2158-3-17**] 11:06 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-18**] 04:41 AM
   Morphine Sulfate - [**2158-3-18**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-18**] 03:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 121 (99 - 130) bpm
   BP: 113/49(65) {94/40(53) - 175/72(88)} mmHg
   RR: 25 (20 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 11 (6 - 11)mmHg
   Total In:
                                                                  2,037 mL
                                                                  1,328 mL
   PO:
   TF:
                                                                    698 mL
                                                                    631 mL
   IVF:
                                                                    669 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    695 mL
   Urine:
                                                                  1,360 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    677 mL
                                                                    633 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 465 (465 - 465) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/59/91/35/8
   Ve: 10.2 L/min
   PaO2 / FiO2: 182
   Physical Examination
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no, writes to communicate
   HEENT: MMM
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds
   ABDOMEN: Hypoactive bowel sounds.  NT/ND
   EXTREMITIES: Extremities are warm and well-perfused (except distally).
   +Bilateral pitting pedal edema.  Cachectic with ecchymoses at left
   shoulders and bilateral LE.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   407 K/uL
   9.7 g/dL
   109 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.8 mEq/L
   9 mg/dL
   98 mEq/L
   139 mEq/L
   29.2 %
   23.6 K/uL
        [image002.jpg]
                             [**2158-3-12**]  11:04 AM
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
                             [**2158-3-17**]  06:00 AM
                             [**2158-3-17**]  11:29 PM
                             [**2158-3-18**]  03:58 AM
   WBC
   13.2
   14.5
   19.5
   27.2
   26.2
   23.6
   Hct
   28.8
   28.4
   27.3
   31.5
   30.3
   34.4
   31.3
   29.6
   29.2
   Plt
   300
   355
   395
   383
   403
   407
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   0.3
   TCO2
   38
   Glucose
   101
   74
   77
   90
   80
   109
   Other labs: PT / PTT / INR:14.0/30.1/1.2, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:85.0 %, Band:5.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.3
   mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB. Found to have multifocal pseudomonal pneumonia initially
   responsive to Zosyn. WBC plateaued pt switched to Meropenem. She then
   developed clinical worsening (increased suctioning and hypoxia) and new
   infiltrate with GNR on gram stain.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)- as new infiltrate
   developed while on Meropenem, concerning for resistant pseudomonas or
   new bacteria. GS without . No GP on gram stain, thus no vanco. Started
   Amikacin for double pseudomonal coverage per ID. C diff several days
   ago neg, and having minimal stool.
   - urine cultures and blood cultures if spikes.
   - cont amikacin/meropenem double coverage
   - will f/u new sensitivies
 TACHYCARDIA, HYPOTENSION: Likely due to multiple pulmonary
   infections/fevers. Has not responded to IVF, restarting benzo and pain
   control.
   - can check ABG given hypoxia and metabolic alkalosis.
   - checking CVP, if <10, will give IVF

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 No further
   bleeding, Hct stable.
   - EGD without obvious source
 gastritis and periPEG erythema
   - transfuse for falling Hct, checking q24hrs.
   -IV PPI [**Hospital1 7**]
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   improving on CXRs
RESPIRATORY FAILURE, CHRONIC-  thoracics changed trach with
   improvement of suctioning. Now breathing well.
   - continue to attempt to wean vent and diurese.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -Continue home fluticasone, albuterol, ipratropium
   -no need for steroids
   #. CAD
   -Continue home simvastatin, restart lisinopril
   - restarting ASA 325, stable for many days w/o GIB
   #. Anxiety/depression: continue home citalopram and clonazapam
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: restart fentanyl patch for chronic abdominal pain.
   Known to have partially obstructed intrarenal aorta but not surgical
   candidate previously. Can tbw vascular after pt scoped, if ischemic
   colitis still possibility for cause of pain.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-16**] 09:42 PM 20 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI switch to PO
   Communication:  Neice
   [**Name (NI) 36**] status: Full code
   Disposition:

2158-03-19 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and
   trach-dependent COPD, with chronic pseudomonas colonization and
   recurrent pulmonary infections, who presents with fevers, altered
   mental status, hypoxia, and a GIB. Found to have multifocal pseudomonal
   pneumonia initially responsive to Zosyn. WBC plateaued pt switched to
   Meropenem. She then developed clinical worsening (increased suctioning
   and hypoxia) and new infiltrate with GNR on gram stain.
   24 Hour Events:
   - CVP 8, gave 500ml bolus - pt's HR improved to 90s, good UOP rest of
   night
   -  Remained as trached ,vented,no vent setting changes this
   shift,suctioned for moderate thick yellowish secretions.overbreathing
   on vent when anxious,c/o pain x 1 by early am.  Sats maintained > 95%,
   current settings: AC/20/ 8/ 450/ 50%. Morphine 2mg x 1 given.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2158-3-18**] 11:58 PM
   Meropenem - [**2158-3-19**] 04:21 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2158-3-18**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-19**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.1
   HR: 105 (92 - 130) bpm
   BP: 112/48(60) {85/35(48) - 175/72(88)} mmHg
   RR: 23 (19 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 6 (6 - 316)mmHg
   Total In:
                                                                  2,819 mL
                                                                    669 mL
   PO:
   TF:
                                                                    962 mL
                                                                    295 mL
   IVF:
                                                                  1,391 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    800 mL
   Urine:
                                                                  1,115 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,704 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 465 (465 - 465) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: ///35/
   Ve: 10 L/min
   Physical Examination
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no, writes to communicate
   HEENT: MMM
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds
   ABDOMEN: Hypoactive bowel sounds.  NT/ND
   EXTREMITIES: Extremities are warm and well-perfused (except distally).
   +Bilateral pitting pedal edema.  Cachectic with ecchymoses at left
   shoulders and bilateral LE.
   Skin:  Not assessed
   Neurologic: Responds appropriately to questions, A+Ox3
   Labs / Radiology
   435 K/uL
   10.4 g/dL
   101 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.0 mEq/L
   11 mg/dL
   96 mEq/L
   136 mEq/L
   32.2 %
   26.6 K/uL
        [image002.jpg]
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
                             [**2158-3-17**]  06:00 AM
                             [**2158-3-17**]  11:29 PM
                             [**2158-3-18**]  03:58 AM
                             [**2158-3-19**]  03:11 AM
   WBC
   13.2
   14.5
   19.5
   27.2
   26.2
   23.6
   26.6
   Hct
   28.4
   27.3
   31.5
   30.3
   34.4
   31.3
   29.6
   29.2
   32.2
   Plt
   300
   355
   395
   383
   403
   407
   435
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   0.3
   0.3
   TCO2
   38
   Glucose
   101
   74
   77
   90
   80
   109
   101
   Other labs: PT / PTT / INR:13.0/27.6/1.1, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:85.0 %, Band:5.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB. Found to have multifocal pseudomonal pneumonia initially
   responsive to Zosyn. WBC plateaued pt switched to Meropenem. She then
   developed clinical worsening (increased suctioning and hypoxia) and new
   infiltrate with GNR on gram stain.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)- as new infiltrate
   developed while on Meropenem, concerning for resistant pseudomonas or
   new bacteria. GS without . No GP on gram stain, thus no vanco. Started
   Amikacin for double pseudomonal coverage per ID. C diff several days
   ago neg, and having minimal stool.
   - urine cultures and blood cultures if spikes.
   - cont amikacin/meropenem double coverage
 TACHYCARDIA, HYPOTENSION: Likely due to multiple pulmonary
   infections/fevers. Has not responded to IVF, restarting benzo and pain
   control.
   - checking CVP, if <10, will give IVF

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 No further
   bleeding, Hct stable.
   - EGD without obvious source
 gastritis and periPEG erythema
   - transfuse for falling Hct, checking q24hrs.
   - per peg PPI
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   improving on CXRs
   - Check CXR today as none since [**3-18**]
RESPIRATORY FAILURE, CHRONIC-  thoracics changed trach with
   improvement of suctioning. Now breathing well.
   - continue to attempt to wean vent and diurese.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -Continue home fluticasone, albuterol, ipratropium
   -no need for steroids
   #. CAD
   -Continue home simvastatin, restart lisinopril
   - restarting ASA 325, stable for many days w/o GIB
   #. Anxiety/depression: continue home citalopram and clonazapam
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: restart fentanyl patch for chronic abdominal pain.
   Known to have partially obstructed intrarenal aorta but not surgical
   candidate previously.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-19**] 06:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2158-03-19 12:03:00 Physician Attending Progress Note
Chief Complaint: resp failure/Pseudomonas PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   received 500 cc bolus for tachycardia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2158-3-18**] 11:58 PM
   Meropenem - [**2158-3-19**] 10:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2158-3-18**] 05:00 PM
   Other medications:
   Celexa, vit D, TUMS, fluticasone, SSI, Zocor, atrovent, mouthcare,
   klonipin, fentanyl patch, lisinopril, lansoprazole,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-19**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 115 (92 - 125) bpm
   BP: 84/25(38) {84/25(38) - 129/63(76)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
   CVP: 10 (6 - 316)mmHg
   Total In:
                                                                  2,819 mL
                                                                  1,022 mL
   PO:
   TF:
                                                                    962 mL
                                                                    472 mL
   IVF:
                                                                  1,391 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                  1,040 mL
   Urine:
                                                                  1,115 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,704 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   PS : 18 cmH2O
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 96%
   ABG: ///35/
   Ve: 10 L/min
   Physical Examination
   Frail white female, trach
d, following commands
   Lungs: secretions decreased and fewer rhonchi on ausc.
   CV: tachy, RR
   Abd: mildly distended, +bs
   Ext 1+edema,
   Diffuse ecchymoses
   Labs / Radiology
   10.4 g/dL
   435 K/uL
   101 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.0 mEq/L
   11 mg/dL
   96 mEq/L
   136 mEq/L
   32.2 %
   26.6 K/uL
        [image002.jpg]
                             [**2158-3-12**]  07:46 PM
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
                             [**2158-3-17**]  06:00 AM
                             [**2158-3-17**]  11:29 PM
                             [**2158-3-18**]  03:58 AM
                             [**2158-3-19**]  03:11 AM
   WBC
   13.2
   14.5
   19.5
   27.2
   26.2
   23.6
   26.6
   Hct
   28.4
   27.3
   31.5
   30.3
   34.4
   31.3
   29.6
   29.2
   32.2
   Plt
   300
   355
   395
   383
   403
   407
   435
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   0.3
   0.3
   TCO2
   38
   Glucose
   101
   74
   77
   90
   80
   109
   101
   Other labs: PT / PTT / INR:13.0/27.6/1.1, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:85.0 %, Band:5.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   [**3-16**] Pseudomonas: [**Last Name (un) 270**] to Amikacin and Zosyn
   No CXR back this morning
   Assessment and Plan
 ANXIETY
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O RESPIRATORY FAILURE, CHRONIC
 TACHYCARDIA, OTHER
   70 yo female with COPD, respiratory failure admitted with severe
   Pseudomonas PNA, recent loculated PTX
    Acute on chronic respiratory failure and Pseudomonas PNA; remains
   critically ill with continued need for vent support, though secretions
   and lung exam slightly better today
   *Remains on Amikacin/Merepenem as per ID recs
   *More comfortable since switching to PS
   *Recheck CXR
   *Continue alb/atrov and fluticasone for COPD
   Other plans per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-19**] 06:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2158-03-20 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB. Found to have multifocal pseudomonal pneumonia initially
   responsive to Zosyn. WBC plateaued pt switched to Meropenem. She then
   developed clinical worsening (increased suctioning and hypoxia) and new
   infiltrate with GNR on gram stain, continued to not improve and
   amikacin added for double coverage.
   24 Hour Events:
   - More tachycardic than usual, CVP of 4, bolused 500cc with improved HR
   - Repeated CXR, pneumothorax now smaller
   - Blood cultures 3/15 with GNR from central line.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2158-3-20**] 12:00 AM
   Meropenem - [**2158-3-20**] 04:00 AM
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2158-3-19**] 07:59 PM
   Morphine Sulfate - [**2158-3-20**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-3-20**] 04:00 AM
   Flowsheet Data as of  [**2158-3-20**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 114 (103 - 127) bpm
   BP: 136/54(74) {84/25(38) - 137/64(78)} mmHg
   RR: 21 (20 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 10 (0 - 16)mmHg
   Total In:
                                                                  2,339 mL
                                                                  1,037 mL
   PO:
   TF:
                                                                    958 mL
                                                                    269 mL
   IVF:
                                                                    941 mL
                                                                    768 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    805 mL
   Urine:
                                                                  2,000 mL
                                                                    805 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                    233 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 458 (458 - 512) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 96%
   ABG: ///37/
   Ve: 9.1 L/min
   Physical Examination
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no, writes to communicate
   HEENT: MMM
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds
   ABDOMEN: Hypoactive bowel sounds.  NT/ND
   EXTREMITIES: Extremities are warm and well-perfused (except distally).
   +Bilateral pitting pedal edema.  Cachectic with ecchymoses at left
   shoulders and bilateral LE.
   Skin:  Not assessed
   Neurologic: Responds appropriately to questions, A+Ox3
   Labs / Radiology
   444 K/uL
   10.0 g/dL
   119 mg/dL
   0.3 mg/dL
   37 mEq/L
   3.5 mEq/L
   10 mg/dL
   95 mEq/L
   136 mEq/L
   30.0 %
   24.6 K/uL
        [image002.jpg]
                             [**2158-3-13**]  04:11 AM
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
                             [**2158-3-17**]  06:00 AM
                             [**2158-3-17**]  11:29 PM
                             [**2158-3-18**]  03:58 AM
                             [**2158-3-19**]  03:11 AM
                             [**2158-3-20**]  03:31 AM
   WBC
   13.2
   14.5
   19.5
   27.2
   26.2
   23.6
   26.6
   24.6
   Hct
   27.3
   31.5
   30.3
   34.4
   31.3
   29.6
   29.2
   32.2
   30.0
   Plt
   300
   355
   395
   383
   [**Telephone/Fax (2) 6316**]44
   Cr
   0.6
   0.5
   0.5
   0.5
   0.4
   0.3
   0.3
   0.3
   TCO2
   38
   Glucose
   101
   74
   77
   90
   80
   109
   101
   119
   Other labs: PT / PTT / INR:13.0/27.6/1.1, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:85.0 %, Band:5.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.6
   mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB. Found to have multifocal pseudomonal pneumonia initially
   responsive to Zosyn. WBC plateaued pt switched to Meropenem. She then
   developed clinical worsening (increased suctioning and hypoxia) and new
   infiltrate with GNR on gram stain, continued to not improve and
   amikacin added for double coverage.
 BACTEREMIA
 Gran negative rods, presumeably pulmonary source
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)- as new infiltrate
   developed while on Meropenem, concerning for resistant pseudomonas or
   new bacteria. GS without . No GP on gram stain, thus no vanco. Started
   Amikacin for double pseudomonal coverage per ID. C diff several days
   ago neg, and having minimal stool.
   - urine cultures and blood cultures if spikes.
   - cont amikacin/meropenem double coverage
 TACHYCARDIA, HYPOTENSION: Likely due to multiple pulmonary
   infections/fevers. Has not responded to IVF, restarting benzo and pain
   control.
   - checking CVP, if <10, will give IVF

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 No further
   bleeding, Hct stable.
   - EGD without obvious source
 gastritis and periPEG erythema
   - transfuse for falling Hct, checking q24hrs.
   - per peg PPI
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   improving on CXRs
   - Check CXR today as none since [**3-18**]
RESPIRATORY FAILURE, CHRONIC-  thoracics changed trach with
   improvement of suctioning. Now breathing well.
   - continue to attempt to wean vent and diurese.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -Continue home fluticasone, albuterol, ipratropium
   -no need for steroids
   #. CAD
   -Continue home simvastatin, restart lisinopril
   - restarting ASA 325, stable for many days w/o GIB
 ANXIETY: continue home citalopram and clonazapam
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: restart fentanyl patch for chronic abdominal pain.
   Known to have partially obstructed intrarenal aorta but not surgical
   candidate previously.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-19**] 06:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer:  PPI
   VAP:  bundle, abx
   Communication:  Neice
   [**Name (NI) 36**] status: Full code
   Disposition: ICU
                        Active Medications [**Known lastname **],[**Known firstname **] M
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular Order date: [**3-11**] @ 1558
   13. Heparin 5000 UNIT SC TID  Order date: [**3-17**] @ 1752
   2. 500 mL NS Bolus 500 ml Over 60 mins Order date: [**3-20**] @ 0014
   14. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**3-11**] @ 2033
   3. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**3-16**] @ 0630
   15. Ipratropium Bromide MDI 4 PUFF IH QID  Order date: [**3-11**] @ [**2059**]
   4. Albuterol Inhaler [**2-8**] PUFF IH Q4H:PRN  Order date: [**3-11**] @ [**2059**]
   16. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  Order date:
   [**3-17**] @ 1238
   5. Amikacin 400 mg IV Q12H
   Day 1 = [**3-17**]  Order date: [**3-17**] @ 2146
   17. Lisinopril 5 mg PO DAILY  Order date: [**3-14**] @ 1159
   6. Aspirin 325 mg PO DAILY  Order date: [**3-18**] @ 1410
   18. Meropenem 500 mg IV Q6H
   d1 = [**3-15**]  Order date: [**3-15**] @ 1510
   7. Calcium Carbonate 500 mg PO TID  Order date: [**3-11**] @ 1833
   19. Miconazole Powder 2% 1 Appl TP PRN  Order date: [**3-11**] @ 1846
   8. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Use only if patient is on mechanical ventilation.  Order date: [**3-12**] @
   0456
   20. Morphine Sulfate 2-4 mg IV Q4H:PRN  Order date: [**3-18**] @ 0144
   9. Citalopram Hydrobromide 10 mg PO DAILY  Order date: [**3-11**] @ 1833
   21. Simvastatin 80 mg PO DAILY  Order date: [**3-11**] @ 1833
   10. Clonazepam 0.5 mg PO TID
   Hold for sedation, RR<12, SBP<90  Order date: [**3-14**] @ 0045
   22. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**3-11**] @ 1558
   11. Fentanyl Patch 25 mcg/hr TP Q72H  Order date: [**3-14**] @ 1159
   23. Vitamin D 800 UNIT PO DAILY  Order date: [**3-11**] @ 1833
   12. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 7**]  Order date: [**3-11**] @
   1833

2158-03-21 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and
   trach-dependent COPD, with chronic pseudomonas colonization and
   recurrent pulmonary infections, who presents with fevers, altered
   mental status, hypoxia, and a GIB. Found to have multifocal pseudomonal
   pneumonia initially responsive to Zosyn. WBC plateaued pt switched to
   Meropenem. She then developed clinical worsening (increased suctioning
   and hypoxia) and new infiltrate with GNR on gram stain, continued to
   not improve and amikacin added for double coverage.
   24 Hour Events:
   - Micro unable to confirm pseudomonas in blood until tomorrow. If it
   is, then continue course with amikacin and meropenem at Rehab.
   - no pleural fluid to tap on US
   - ID consulted on multi-drug resistant infection, asked for micro lab
   to check sensitivities on Colistin and Doripenem
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2158-3-21**] 12:04 AM
   Meropenem - [**2158-3-21**] 03:51 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2158-3-20**] 09:54 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-21**] 03:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-3-21**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 129 (97 - 129) bpm
   BP: 164/69(93) {99/35(49) - 164/71(93)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 12 (4 - 14)mmHg
   Total In:
                                                                  3,264 mL
                                                                    778 mL
   PO:
   TF:
                                                                    960 mL
                                                                    302 mL
   IVF:
                                                                  1,495 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                  1,200 mL
   Urine:
                                                                  2,920 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    344 mL
                                                                   -422 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 363 (336 - 454) mL
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 106
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: ///39/
   Ve: 10.3 L/min
   Physical Examination
   GEN: Ill-appearing elderly female.  Able to answer questions by
   mouthing yes/no, writes to communicate
   HEENT: MMM
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Coarse ventilated breath sounds
   ABDOMEN: Hypoactive bowel sounds.  NT/ND
   EXTREMITIES: Extremities are warm and well-perfused (except distally).
   +Bilateral pitting pedal edema.  Cachectic with ecchymoses at left
   shoulders and bilateral LE.
   Skin:  Not assessed
   Neurologic: Responds appropriately to questions, A+Ox3
   Labs / Radiology
   499 K/uL
   9.9 g/dL
   113 mg/dL
   0.3 mg/dL
   39 mEq/L
   4.0 mEq/L
   10 mg/dL
   94 mEq/L
   139 mEq/L
   30.8 %
   26.0 K/uL
        [image002.jpg]
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
                             [**2158-3-17**]  06:00 AM
                             [**2158-3-17**]  11:29 PM
                             [**2158-3-18**]  03:58 AM
                             [**2158-3-19**]  03:11 AM
                             [**2158-3-20**]  03:31 AM
                             [**2158-3-21**]  04:29 AM
   WBC
   14.5
   19.5
   27.2
   26.2
   23.6
   26.6
   24.6
   26.0
   Hct
   31.5
   30.3
   34.4
   31.3
   29.6
   29.2
   32.2
   30.0
   30.8
   Plt
   355
   395
   383
   [**Telephone/Fax (2) 6332**]99
   Cr
   0.5
   0.5
   0.5
   0.4
   0.3
   0.3
   0.3
   0.3
   TCO2
   38
   Glucose
   74
   77
   90
   80
   109
   101
   119
   113
   Other labs: PT / PTT / INR:13.0/27.6/1.1, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:85.0 %, Band:5.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.9
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3581**] is a 70F with a PMH s/f severe, steroid and trach-dependent
   COPD, with chronic pseudomonas colonization and recurrent pulmonary
   infections, who presents with fevers, altered mental status, hypoxia,
   and a GIB. Found to have multifocal pseudomonal pneumonia initially
   responsive to Zosyn. WBC plateaued pt switched to Meropenem. She then
   developed clinical worsening (increased suctioning and hypoxia) and new
   infiltrate with GNR on gram stain, continued to not improve and
   amikacin added for double coverage.
 BACTEREMIA
 Gran negative rods, presumeably pulmonary source given
   severe COPD causing
pockets
 difficult to treat with Abx. Micro lab
   can not definitively say it is same bacteria until later today  - if
   same then continue course. If different, will look for other sources
   with CT abdomen, ECHO.  US showed no pleural fluid to tap.
   - ID consulted on multi-drug resistent infection
 considering Colistin
   and Doripenem, but will likely increase amikacin and continue meropenem
   - took out central line as possible source of infection
 Pt currently
   has PIV
RESPIRATORY FAILURE, CHRONIC-  thoracics changed trach with
   improvement of suctioning. Now breathing well.
   - stable will continue to wean at rehab
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)- On [**Last Name (un) **] and
   Amikacin. New sensitivites with intermediate sensitivity to Zosyn and
   [**Last Name (un) **] so will continue current antibiotics per ID.
   - urine cultures and blood cultures if spikes.

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 No further
   bleeding, Hct stable.
   - EGD without obvious source
 gastritis and periPEG erythema
   - transfuse for falling Hct, checking q24hrs.
 [**Hospital **] HOSPITAL ACQUIRED (PROCEDURE RELATED, BAROTRAUMA):
   improving on serial CXRs
   #. CAD
   -Continue home simvastatin, restart lisinopril and ASA
 ANXIETY: continue home citalopram and clonazapam
   #. Osteoporosis: continue home calcium and vitamin D
   #. Chronic Pain: restart fentanyl patch for chronic abdominal pain.
   Known to have partially obstructed intrarenal aorta but not surgical
   candidate previously.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-3-19**] 06:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer:  PPI
   VAP:  bundle, abx
   Communication:  Neice
   [**Name (NI) 36**] status: Full code
   Disposition: ICU
                   1. Acetaminophen 325-650 mg PO Q6H:PRN
   11. Ipratropium Bromide MDI 4 PUFF IH QID
   2. Albuterol Inhaler [**2-8**] PUFF IH Q4H:PRN  Order date: [**3-11**] @ [**2059**]
   12. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY
   3. Amikacin 400 mg IV Q12H Day 1 = [**3-17**]
   13. Lisinopril 5 mg PO DAILY
   4. Aspirin 325 mg PO DAILY
   14. Meropenem 500 mg IV Q6H d1 = [**3-15**]
   5. Calcium Carbonate 500 mg PO TID
   15. Miconazole Powder 2% 1 Appl TP PRN
   6. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   16. Morphine Sulfate 2-4 mg IV Q4H:PRN
   7. Citalopram Hydrobromide 10 mg PO DAILY
   17. Simvastatin 80 mg PO DAILY
   8. Clonazepam 0.5 mg PO TID
   18. Insulin SC  SS
   9. Fentanyl Patch 25 mcg/hr TP Q72H
   19. Vitamin D 800 UNIT PO DAILY
   10. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 7**]
   20. Heparin 5000 UNIT SC TID

2158-03-21 10:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70F with severe COPD, vented p/w hypotension, GI bleed, and pneumonia.
   24 Hour Events:
   No events overnight.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Amikacin - [**2158-3-21**] 12:04 AM
   Meropenem - [**2158-3-21**] 03:51 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2158-3-20**] 09:54 PM
   Heparin Sodium (Prophylaxis) - [**2158-3-21**] 03:51 AM
   Other medications:
   Fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Edema, Tachycardia
   Respiratory: No(t) Cough
   Genitourinary: No(t) Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-3-21**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 116 (97 - 129) bpm
   BP: 92/42(54) {92/35(49) - 164/71(93)} mmHg
   RR: 22 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
   CVP: 8 (4 - 14)mmHg
   Total In:
                                                                  3,264 mL
                                                                    797 mL
   PO:
   TF:
                                                                    960 mL
                                                                    318 mL
   IVF:
                                                                  1,495 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                  1,200 mL
   Urine:
                                                                  2,920 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    344 mL
                                                                   -403 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (357 - 454) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 106
   PIP: 24 cmH2O
   SpO2: 96%
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, thin
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   499 K/uL
   113 mg/dL
   0.3 mg/dL
   39 mEq/L
   4.0 mEq/L
   10 mg/dL
   94 mEq/L
   139 mEq/L
   30.8 %
   26.0 K/uL
        [image002.jpg]
                             [**2158-3-13**]  02:00 PM
                             [**2158-3-14**]  02:39 AM
                             [**2158-3-15**]  03:42 AM
                             [**2158-3-16**]  04:27 AM
                             [**2158-3-17**]  06:00 AM
                             [**2158-3-17**]  11:29 PM
                             [**2158-3-18**]  03:58 AM
                             [**2158-3-19**]  03:11 AM
                             [**2158-3-20**]  03:31 AM
                             [**2158-3-21**]  04:29 AM
   WBC
   14.5
   19.5
   27.2
   26.2
   23.6
   26.6
   24.6
   26.0
   Hct
   31.5
   30.3
   34.4
   31.3
   29.6
   29.2
   32.2
   30.0
   30.8
   Plt
   355
   395
   383
   [**Telephone/Fax (2) 6332**]99
   Cr
   0.5
   0.5
   0.5
   0.4
   0.3
   0.3
   0.3
   0.3
   TCO2
   38
   Glucose
   74
   77
   90
   80
   109
   101
   119
   113
   Other labs: PT / PTT / INR:13.0/27.6/1.1, CK / CKMB /
   Troponin-T:31/3/<0.01, ALT / AST:13/15, Alk Phos / T Bili:83/0.2,
   Differential-Neuts:85.0 %, Band:5.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:239 IU/L, Ca++:7.9
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Microbiology: [**3-20**], [**3-21**] BLdCx: NGTD
   [**3-19**]: GNRs
   Assessment and Plan
   1) GNR bacteremia:
   Likely pseudomonas secondary to pneumonia.
   Continue current antibiotics pending ID consult.
   2) VAP:
   Respiratory status is stable; will push down PSV and consider TM trials
   as she improves.
   Continue meropenem and amikacin; will check sensitivities to doribax
   and colistin.
   3) Leukocytosis:
   Most likely source continues to be pneumonia.
   Check differential on WBC.
   4) Anemia:
   Hct stable.  No further signs of GI bleed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-3-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 25 minutes